US05284857
trans-2-Cyano-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl) -7H-thieno[3,2-b]pyran
Boron tribromide (1.0 M in dichloromethane, 17.6 mL, 17.6 mmol) was slowly added to a solution of trans-6-benzyloxy-2-cyano-5,6-dihydro-5,5-dimethyl-7-(2-oxopiperidin-1-yl) -7H-thieno[3,2-b]pyran (1.4 g, 3.5 mmol) in dichloromethane (40 mL) at0° C. and stirred for 1h. The solution was poured into ice water. The organic layer was washed with water and dried over magnesium sulfate. The solvent was evaporated in vacuo, and the residue was purified by flash chromatography using 3% methanol in dichloromethane as the eluant. The product was recrystallized from dichloromethane/hexanes to give a colorless solid, 0.997 g (93%); mp 212°-214° C.; IR(KBr): 2210, 1624, 1558 and 1486 cm-1 ; MS: m/z 307 (MH+); 1H NMR(CDCl3): δ 1.29 (s, 3H), 1.50 (s, 3H), 1.77-1.90 (m, 4H), 2.53 (m, 2H), 3.17 (m, 2H), 3.66 (d, J=5.9 Hz, 1H), 3.80 (dd, J=5.9 Hz, J=9.4 Hz, 1H), 5.85 (d, J=9.4 Hz, 1H), 5.92 (bs, 1H) and 7.07 (s, 1H).

reactant | Boron tribromide | 17.6 mmol, 1.0 M, 17.6 mL | B(Br)(Br)Br | BBr3
reactant | trans-6-benzyloxy-2-cyano-5,6-dihydro-5,5-dimethyl-7-(2-oxopiperidin-1-yl) -7H-thieno[3,2-b]pyran | 3.5 mmol, 1.4 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](C2=C(OC1(C)C)C=C(S2)C#N)N2C(CCCC2)=O | C22H24N2O3S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | trans-2-Cyano-5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl) -7H-thieno[3,2-b]pyran | C(#N)C1=CC=2OC([C@H]([C@@H](C2S1)N1C(CCCC1)=O)O)(C)C | C15H18N2O3S
